US09382243B2
Step A. (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl benzoate
To a stirred solution of triphenylphosphine (560 mg, 2.134 mmol) and benzoic acid (261 mg, 2.134 mmol) under nitrogen in anhydrous THF (8.0 mL) was added (4aR,7R,8aS)-2-phenylhexahydro-pyrano[3,2-d][1,3]dioxin-7-ol (500 mg, 2.134 mmol), then DIAD (0.41 mL, 428 mg, 2.116 mmol) dropwise over 10 minutes. After stirring at room temperature for 1 hour, the mixture was concentrated under reduced pressure. The resultant oil was dissolved in DCM, then loaded directly onto a Biotage™ 50 g (2×25 g in series) silica gel cartridge and eluted with 0-100% EtOAc in 1:1 Hexane/DCM over 25 column volumes. The product fractions were combined and concentrated under reduced pressure to provide the desired product as a white solid. LC-MS: calculated for C20H20O5 340.13, observed m/e: 341.13 (M+H)+ (Rt 2.21/4 min).

reactant | triphenylphosphine | 2.134 mmol, 560 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 2.134 mmol, 261 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | (4aR,7R,8aS)-2-phenylhexahydro-pyrano[3,2-d][1,3]dioxin-7-ol | 2.134 mmol, 500 mg | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@H](CO2)O | C13H16O4
reactant | DIAD | 2.116 mmol, 0.41 mL, 428 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H]2OC(OC[C@H]2OC1)C1=CC=CC=C1 | C20H20O5
